US08404719B2
N-(4-fluorophenyl)-3-[(4-pyrrolidin-1-ylpiperidin-1-yl)carbonyl]benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.178 g, 0.746 mmol) in anhydrous dichloromethane (10 mL) was added 4-(pyrrolidin-1-yl)piperidine (0.115 g, 0.746 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.277 g, 2.61 mmol) was added. The mixture was stirred at room temperature for 5 hours. Then 4-fluoroaniline (0.83 g, 7.5 mmol) was added. The mixture was stirred at room temperature overnight. Then methanol (5 mL) was added, the mixture was stirred for 20 minutes, then filtered, and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate, then methanol/ethyl acetate=1:10) to give the titled compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.37 (m, 2H), 1.73 (m, 6H), 1.93 (m, 2H), 2.63 (m, 4H), 2.96 (m, 2H), 4.25 (m, 1H), 7.08 (m, 4H), 7.62 (m, 3H), 7.79 (m, 1H); MS (ESI) m/z 432 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 0.746 mmol, 0.178 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | 4-(pyrrolidin-1-yl)piperidine | 0.746 mmol, 0.115 g | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | sodium carbonate | 2.61 mmol, 0.277 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluoroaniline | 7.5 mmol, 0.83 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
product | N-(4-fluorophenyl)-3-[(4-pyrrolidin-1-ylpiperidin-1-yl)carbonyl]benzenesulfonamide | FC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)C(=O)N1CCC(CC1)N1CCCC1 | C22H26FN3O3S
